US07569516B2
5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-1H-pyrazole-3-carboxylic acid propargylamide (Compound 1.134)
To a suspension of 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-I H-pyrazole-3-carboxylic acid propargylamide (0.71 g, 1.43 mmol) in dichloromethane was slowly added a solution of m-chloroperbenzoic acid (70%, 0.41 g, 1.68 mmol) in dichloromethane. After stirring for 17 hours at 20° C., an aqueous solution of sodium sulfite/sodium hydrogen carbonate (5%:5%, 25 ml) was added and stirring continued for 15 minutes. The aqueous phase was extracted with dichloromethane, dried over magnesium sulfate, evaporated and purified by flash chomatography (silica, heptane/ethyl acetate) to give the title compound (0.604 g, yield 86%) as white crystals, mp 207° C., 1H NMR (CDCl3): 2.28 (t, 1H, propargyl), 4.20 (m, 2H, propargyl), 5.17 (bs, 2H, NH2), 6.88 (bt, 1H, C(O)NH), and 7.83 (s, 2H, Ar—H).

reactant | 5-amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthio-I H-pyrazole-3-carboxylic acid propargylamide | 1.43 mmol, 0.71 g | C(C#C)(=O)N.NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O)SC(F)(F)F
reactant | m-chloroperbenzoic acid | 1.68 mmol, 0.41 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite sodium hydrogen carbonate | 25 ml | S(=O)([O-])[O-].[Na+].[Na+].C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-Amino-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylsulfinyl-1H-pyrazole-3-carboxylic acid propargylamide | 0.604 g, yield 86% | C(C#C)(=O)N.NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C(=O)O)S(=O)C(F)(F)F | InChI=1S/C12H5Cl2F6N3O3S.C3H3NO/c13-4-1-3(11(15,16)17)2-5(14)7(4)23-9(21)8(6(22-23)10(24)25)27(26)12(18,19)20;1-2-3(4)5/h1-2H,21H2,(H,24,25);1H,(H2,4,5)
